US07786165B2
3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoic acid calcium salt
To a solution of 3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoic acid (86.3 mg, 0.14 mmol) in methanol (1 mL) was added 1 M sodium hydroxide solution (0.14 mL). Successively, an aqueous solution of calcium chloride (8.7 mg, 0.07 mmol) was gradually added. The precipitated solid was collected by filtration, washed with water, and vacuum dried to give the title compound (39.2 mg, yield 44%) as a colorless amorphous powder.

reactant | 3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoic acid | 0.14 mmol, 86.3 mg | C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CNC1=CC(=C(C=C1)CCC(=O)O)F | C32H37FN2O7S
reactant | sodium hydroxide | 1 M, 0.14 mL | [OH-].[Na+]
reactant | calcium chloride | 0.07 mmol, 8.7 mg | [Cl-].[Ca+2].[Cl-]
solvent | methanol | 1 mL | CO | CH4O
product | 3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoic acid calcium salt | 39.2 mg, yield 44% | [Ca+2].C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CNC1=CC(=C(C=C1)CCC(=O)[O-])F.C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CNC1=CC(=C(C=C1)CCC(=O)[O-])F | InChI=1S/2C32H37FN2O7S.Ca/c2*1-20-14-26(42-19-32(39)10-12-43(40,41)13-11-32)15-21(2)31(20)27-16-23(4-8-29(27)35-22(3)36)18-34-25-7-5-24(28(33)17-25)6-9-30(37)38;/h2*4-5,7-8,14-17,34,39H,6,9-13,18-19H2,1-3H3,(H,35,36)(H,37,38);/q;;+2/p-2
